US07745475B2
3-{[(1S)-1-Methyl-2-(methyloxy)ethyl]oxy}-N-(5-methylpyrazin-2-yl)-5-[(phenylmethyl)oxy]benzamide
DMF (2 drops) was added to a solution of 3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(phenylmethyl)oxy]benzoic acid (6.0 g, 19.0 mmol) and oxalyl chloride (1.99 mL, 22.8 mmol) in DCM (40 mL) The mixture was stirred at ambient temperature for 2 hours and the DCM and excess oxalyl chloride evaporated in vacuo. The residual acid chloride was dissolved in DCM and added dropwise to 2-amino-5 methylpyrazine [Tett lett. 2002, 9287-90] (2.28 g, 19.8 mmol) and pyridine (2.56 mL, 38 mmol) in DCM (40 mL), at 0° C. Stirred at ambient temperature for 24 hours. The DCM was evaporated in vacuo, and the residue partitioned between ethyl acetate (100 mL) and 1N hydrochloric acid (50 mL). The ethyl acetate layer was washed sequentially with saturated aqueous sodium hydrogen carbonate (50 mL) and brine (50 mL), dried (MgSO4), and evaporated in vacuo. The residue was chromatographed on silica, eluting with a gradient of 30-100% ethyl acetate in isohexane, to give the desired compound (7.6 g)

reactant | 3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(phenylmethyl)oxy]benzoic acid | 19.0 mmol, 6.0 g | C[C@@H](COC)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C18H20O5
reactant | oxalyl chloride | 22.8 mmol, 1.99 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-5 methylpyrazine | 19.8 mmol, 2.28 g | NC1=NC=C(N=C1)C | C5H7N3
reactant | pyridine | 38 mmol, 2.56 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-{[(1S)-1-Methyl-2-(methyloxy)ethyl]oxy}-N-(5-methylpyrazin-2-yl)-5-[(phenylmethyl)oxy]benzamide | 7.6 g | C[C@@H](COC)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)OCC1=CC=CC=C1 | C23H25N3O4
